US07501425B1
3-Allyl-7-[4-(2-Diethylaminoethoxy)phenylamino]-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione
A mixture of 200 mg (0.64 mmol) of 3-allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione and 400 mg (1.92 mmol) of 4-(2-diethylaminoethoxy)aniline is heated at 180° C. for 3 hours. The reaction mixture is cooled, dissolved into chloroform, and chromatographed on silica eluting with 4:96 methanol/chloroform. The resulting oily material partially crystallizes on standing, and the mixture is triturated with diethyl ether/hexane and filtered to give 106 mg (36%) of the title compound: mp 90-96° C.

reactant | 3-allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 0.64 mmol, 200 mg | C(C=C)N1C(N(C2=NC(=NC=C2C1=O)N1C=NC=C1)C(C)C)=O | C15H16N6O2
reactant | 4-(2-diethylaminoethoxy)aniline | 1.92 mmol, 400 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Allyl-7-[4-(2-Diethylaminoethoxy)phenylamino]-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 106 mg, 36% | C(C=C)N1C(N(C2=NC(=NC=C2C1=O)NC1=CC=C(C=C1)OCCN(CC)CC)C(C)C)=O | C24H32N6O3
